US06083943
(26) (2R*,3S*,5R*)-1-Benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine
To a stirred and ice-cooled mixture of (2R*,3S*,5R*)-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine (4.86 g, 13.4 mmol), NaHCO3 (1.68 g, 20.1 mmol), THF (5.0 ml), and H2O (30.0 ml) was added Cbz-Cl (2.51 g, 14.7 mmol), and the mixture was stirred with ice-cooling for 30 minutes. The mixture was extracted with AcOEt (40.0 ml×3). The combined AcOEt extracts were washed with sat. NaCl aq. solution (×1), dried (MgSO4), and concentrated in vacuo to give a viscous pale yellow oil (6.82 g). This was flash chromatographed over SiO2 (Merck Kieselgel 60, 80.0 g). Elution with n-hexane-AcOEt (30:1/20: 1) gave title compound (6.51 g, 97.9%) as a viscous colorless oil. IRmax (film): 1735(s), 1700(s), 1605(w), 1585(w), 1495(m), 1250(s), 1115(s), 775(s), 740(m), 700(s) cm-1 ; 1H-NMR δ: 7.45-7.31(m, 4H), 7.31-7.15(m, 6H), 6.05(d, J=5.5 Hz, 0.6H), 5.87(d, J=5.5 Hz, 0.4H), 5.32-5.10(5.30, 5.25, 5.21, 5.18, and 5.13; m, 2H), 4.20-4.05(m, 1H), 3.65-3.45(m, 2.4H), 3.60(br.s, 3H), 3.40(dd, J=9.9, 6.6 Hz, 0.6H), 3.08-2.91(m, 1H), 2.63(dd, J=11.7, 11.7 Hz, 0.4H), 2.52(dd, J=13.6, 11.7 Hz, 0.6H), 2.11-1.98(m, 1H), 1.98-1.70(m, 2H), 0.86(s, 3.6H), 0.83(s, 5.4H), 0.026, 0.018, and 0.008(each s, total 6H) ppm.

reactant | (2R*,3S*,5R*)-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine | 13.4 mmol, 4.86 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@@H]([C@@H](NC1)C1=CC=CC=C1)C(=O)OC | C20H33NO3Si
reactant | NaHCO3 | 20.1 mmol, 1.68 g | C(=O)(O)[O-].[Na+]
reactant | THF | 5.0 ml | C1CCOC1 | C4H8O
reactant | Cbz-Cl | 14.7 mmol, 2.51 g | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | H2O | 30.0 ml | O | H2O
product | (2R*,3S*,5R*)-1-Benzyloxycarbonyl-5-(tert-butyldimethylsilyloxy)methyl-3-methoxycarbonyl-2-phenylpiperidine | 6.82 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C[C@H](C1)CO[Si](C)(C)C(C)(C)C)C(=O)OC)C1=CC=CC=C1 | C28H39NO5Si
